US08629132B2
1-((4-methyl-1-(5-methyl-2-(3,4,5-trimethoxyphenylamino)pyrimidin-4-yl)-1H-pyrrol-3-yl)methyl)azetidin-3-yl pivalate: Compound No. 93
To a solution of 1-((4-methyl-1-(5-methyl-2-(3,4,5-trimethoxyphenylamino)pyrimidin-4-yl)-1H-pyrrol-3-yl)methyl)azetidin-3-ol (compound No. 91, 150 mg, 0.34 mmol) in 2 mL of anhydrous DMF, were added 5 mg of N,N-dimethylaminopyridine (DMAP) and trimethylacetic anhydride (128 mg, 0.68 mmol) at rt. After being stirred for 16 hours at room temperature, the reaction mixture was concentrated in vacuo. The resulting residue was extracted with EtOAc, washed with 2N-NaOH, dried over anhydrous Na2SO4, concentrated in vacuo and then purified by chromatography (5 to 15% MeOH/DCM) to afford desired Compound No. 93 as a colorless solid (98 mg, 55%); 1H NMR (300 MHz, CDCl3) 6, 9.44 (s, 1H), 8.35 (2, 1H), 7.37 (s, 1H), 7.30 (s, 1H), 7.19 (s, 2H), 4.88-4.94 (m, 1H), 3.78 (s, 6H), 3.76 (m, 1H), 3.61 (s, 3H), 3.57-0.60 (m, 3H), 2.92 (m, 2H), 2.32 (s, 3H), 2.01 (s, 3H), 1.14 (s, 9H); MS (ESI) m/z 524 [M+H]+.

reactant | 1-((4-methyl-1-(5-methyl-2-(3,4,5-trimethoxyphenylamino)pyrimidin-4-yl)-1H-pyrrol-3-yl)methyl)azetidin-3-ol | 0.34 mmol, 150 mg | CC=1C(=CN(C1)C1=NC(=NC=C1C)NC1=CC(=C(C(=C1)OC)OC)OC)CN1CC(C1)O | C23H29N5O4
reactant | trimethylacetic anhydride | 0.68 mmol, 128 mg | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-((4-methyl-1-(5-methyl-2-(3,4,5-trimethoxyphenylamino)pyrimidin-4-yl)-1H-pyrrol-3-yl)methyl)azetidin-3-yl pivalate | C(C(C)(C)C)(=O)OC1CN(C1)CC1=CN(C=C1C)C1=NC(=NC=C1C)NC1=CC(=C(C(=C1)OC)OC)OC | C28H37N5O5
